US08168794B2
To a solution of (3S,5S)-benzyl 3-(tert-butoxycarbonylamino)-5-fluoropiperidine-1-carboxylate (1 eq) in 5 methanol and 5 mL of EtOAc was added 10% Pd/C (0.1 eq). The resulting suspension was stirred at H2 atmosphere for 4 hours. The crude solids were filtered through a pad of Celite on a paper lined Buchner funnel, washed with MeOH, then concentrated in vacuo. The residue was dissolved in 5 mL of isopropanol and DIPEA (1.8 eq) and 4-chloro-3-nitropyridine (1.5 eq) were added. The reaction mixture was stirred at 65° C. for 3 hours, at which point the reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure. The residue was diluted with 120 mL of EtOAc, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc:hexanes=1:1) to give tert-butyl(3S,5S)-5-fluoro-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate (78%). LC/MS (m/z): 341.1 (MH+), Rt=0.57 min. HPLC: Rt: 2.01 min.

reactant | (3S,5S)-benzyl 3-(tert-butoxycarbonylamino)-5-fluoropiperidine-1-carboxylate | 1 eq | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C18H25FN2O4
reactant | methanol | CO | CH4O
reactant | DIPEA | 1.8 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-3-nitropyridine | 1.5 eq | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | tert-butyl(3S,5S)-5-fluoro-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | 78% | F[C@H]1C[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C15H21FN4O4
